US05236912
3.5 g of 15α-acetoxy-3-methoxy-4-methylandrosta-3,5-dien-17-one is reacted with acetylene analogously to Example 5. The resultant 17α-ethynyl-3-methoxy-4-methylandrosta-3,5,15-trien-17β-ol is allowed to react, as described in Example 5with concentrated hydrochloric acid in a mixture of methanol/water. After the crude product has been chromatographed on silica gel with a hexane-ethyl acetate gradient, 1.3 g of 17α-ethynyl-17β-hydroxy-4methylandrosta-4,15-diene-3-one is obtained as a foam.

reactant | 15α-acetoxy-3-methoxy-4-methylandrosta-3,5-dien-17-one | 3.5 g | C(C)(=O)O[C@H]1CC([C@]2(C)[C@@H]1[C@@H]1CC=C3C(=C(CC[C@]3(C)[C@H]1CC2)OC)C)=O | C23H32O4
reactant | acetylene | C#C | C2H2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol water | CO.O
product | 17α-ethynyl-17β-hydroxy-4methylandrosta-4,15-diene-3-one | 1.3 g | C(#C)[C@]1([C@]2(C)[C@@H](C=C1)[C@@H]1CCC3=C(C(CC[C@]3(C)[C@H]1CC2)=O)C)O | C22H28O2
